US08030302B2
1-Acetyl-6-bromo-1H-indazol-5-yl acetate
A mixture of 6-bromo-5-hydroxy-1H-indazole (25 g, 117 mmol) in acetic acid anhydride (75 mL) is heated at 110° C. with stirring for 2 hours. After it is cooled, diethyl ether (100 mL) is added. The precipitate is collected by filtration, washed with diethyl ether (30 mL), and dried under vacuum to afford the product (34 g, 98% yield). MS (m/z): 297.0 (M+H).

reactant | 6-bromo-5-hydroxy-1H-indazole | 117 mmol, 25 g | BrC1=C(C=C2C=NNC2=C1)O | C7H5BrN2O
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | acetic acid anhydride | 75 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-6-bromo-1H-indazol-5-yl acetate | 34 g, 98% yield | C(C)(=O)OC=1C=C2C=NN(C2=CC1Br)C(C)=O | C11H9BrN2O3
